US05990102
4-(Benzylthio)-1-(4-phenylbutyl)azetidin-2-one
A solution 4-(benzylthio)azetidin-2-one (1.1 g, 5.5 mmol) in dry THF (10 ml) was added dropwise over 10 minutes to a suspension of NaH (0.13 g, 5.6 mmol) in dry THF (5 ml) at -20° C. under a N2 atmosphere. A solution of 1-iodo-4-phenylbutane (1.4 g, 5.5 mmol) in dry THF (10 ml) was added dropwise over 10 minutes at -55° C. After stirring for 18 hours, the mixture was poured onto ice/water (50 g), filtered through hyflo, the THF evaporated under reduced pressure and the residue taken up in ethyl acetate. The solution was washed with brine (×2), dried (MgSO4), evaporated under reduced pressure to a yellow oil which was purified by flash chromatography on silica gel eluted with 5:1, 3:1 then 1:1 petroleun ether/ethyl acetate to give the product as a yellow oil (0.25 g, 14%). 1H NMR δ (CDCl3) 1.5 (4H, m, 2×CH2), 2.6 (2H, m, CH2Ph), 2.85, 3.2 (each 2H, m, H-3 & NCH2), 3.73 (2H, s, SCH2), 4.54 (1H, m, H-4), 7.2 (10H, m, 2×Ph--H)

reactant | 4-(benzylthio)azetidin-2-one | 5.5 mmol, 1.1 g | C(C1=CC=CC=C1)SC1CC(N1)=O | C10H11NOS
reactant | NaH | 5.6 mmol, 0.13 g | [H-].[Na+]
reactant | 1-iodo-4-phenylbutane | 5.5 mmol, 1.4 g | ICCCCC1=CC=CC=C1 | C10H13I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(Benzylthio)-1-(4-phenylbutyl)azetidin-2-one | 0.25 g, 14% | C(C1=CC=CC=C1)SC1CC(N1CCCCC1=CC=CC=C1)=O | C20H23NOS
